US07473784B2
5. 3-(2-Fluorophenyl)-4-(2-(isopropylamino)benzo[d]thiazol-6-yl)-1H-pyrazol-5-ol
To a solution of methyl 3-(2-fluorophenyl)-2-(2-(isopropylamino)benzo[d]thiazol-6-yl)-3-oxopropanoate (63% purity, 0.260 g) in glacial AcOH (4 mL) and EtOH (2 mL) was added anhydrous hydrazine (0.18 mL, 5.73 mmol) at 0° C. The resulting mixture was heated at 85° C. for 4 hr. After it cooled to rt, the mixture was diluted with water (40 mL), basified with concentrated ammonium hydroxide to pH 8, and extracted with AcOEt (3×30 mL). The combined extract was washed with brine and dried over anhydrous MgSO4. The title compound (55.0 mg, 27% yield over two steps) was isolated by ISCO (8% MeOH/CH2Cl2). (M+H)+=369.21.

reactant | methyl 3-(2-fluorophenyl)-2-(2-(isopropylamino)benzo[d]thiazol-6-yl)-3-oxopropanoate | 0.260 g | FC1=C(C=CC=C1)C(C(C(=O)OC)C1=CC2=C(N=C(S2)NC(C)C)C=C1)=O | C20H19FN2O3S
reactant | hydrazine | 5.73 mmol, 0.18 mL | NN | H4N2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | MeOH CH2Cl2 | CO.C(Cl)Cl
solvent | AcOH | 4 mL | CC(=O)O | C2H4O2
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | water | 40 mL | O | H2O
product | 3-(2-Fluorophenyl)-4-(2-(isopropylamino)benzo[d]thiazol-6-yl)-1H-pyrazol-5-ol | 55.0 mg, 27% yield | FC1=C(C=CC=C1)C1=NNC(=C1C1=CC2=C(N=C(S2)NC(C)C)C=C1)O | C19H17FN4OS
